US07183277B2
1.2 101 mg (1.00 mmol) of 4-methylmorpholine are added to a solution of 183 mg (0.600 mmol) of (R)-(4-chlorophenylcarbamoyloxy)phenylacetic acid, 129 mg (0.588 mmol) of 1-(4-aminophenyl)piperidin-2-one O-methyl oxime, 192 mg (1.00 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 91.9 mg (0.600 mmol) of hydroxybenzotriazole hydrate (HOBt) in 1 ml of DMF, and the mixture is stirred at room temperature for 24 hours. The reaction mixture is introduced into saturated sodium hydrogencarbonate solution, and the resultant precipitate is filtered off. The precipitate is chromatographed on a silica-gel column with petroleum ether/ethyl acetate as eluent, giving (R)-2-[N-(4-chlorophenyl)carbamoyloxy]-N-[4-(2-methoxyiminopiperidin-1-yl)phenyl]-2-phenylacetamide (“AA”) as a colourless solid; ESI 507.

reactant | 4-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | (R)-(4-chlorophenylcarbamoyloxy)phenylacetic acid | 0.600 mmol, 183 mg | ClC1=CC=C(C=C1)NC(=O)O[C@@H](C(=O)O)C1=CC=CC=C1 | C15H12ClNO4
reactant | 1-(4-aminophenyl)piperidin-2-one O-methyl oxime | 0.588 mmol, 129 mg | CON=C1N(CCCC1)C1=CC=C(C=C1)N | C12H17N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.00 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 0.600 mmol, 91.9 mg | O.OC1=CC=CC=2NN=NC21
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-2-[N-(4-chlorophenyl)carbamoyloxy]-N-[4-(2-methoxyiminopiperidin-1-yl)phenyl]-2-phenylacetamide | ClC1=CC=C(C=C1)NC(=O)O[C@@H](C(=O)NC1=CC=C(C=C1)N1C(CCCC1)=NOC)C1=CC=CC=C1 | C27H27ClN4O4
